US08227622B2
2-[4-(hydroxyimino)-2-methyl-4,5,6,7-tetrahydro-1H-indol-1-yl]acetic acid
A mixture of 2-(2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl)acetic acid (4.0 g, 19 mmol), hydroxylamine hydrochloride (2.0 g, 29 mmol) and anhydrous sodium acetate (2.4 g, 29 mmol) in ethanol (40 mL) was heated under reflux for 6 h with stirring. After cooling to r.t. and holding overnight, the mixture was further cooled to 4° C. The solid product was collected by filtration, washed with water (15 mL) followed by ethanol (15 mL) then dried under vacuum at 40° C. to afford the title compound as a pale brown solid; 3.68 g (86%); purity: 96.7 area % by HPLC; m/z: 223 (MH+); 1H-NMR: 9.82 (1H, br s), 6.48 (1H, d, J=0.90 Hz), 4.58 (2H, s), 2.56-2.51 (2H, m), 2.29-2.24 (2H, m), 2.09 (3H, s), 1.86-1.79 (2H, m).

reactant | 2-(2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl)acetic acid | 19 mmol, 4.0 g | CC=1N(C=2CCCC(C2C1)=O)CC(=O)O | C11H13NO3
reactant | hydroxylamine hydrochloride | 29 mmol, 2.0 g | Cl.NO
reactant | sodium acetate | 29 mmol, 2.4 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-[4-(hydroxyimino)-2-methyl-4,5,6,7-tetrahydro-1H-indol-1-yl]acetic acid | ON=C1C=2C=C(N(C2CCC1)CC(=O)O)C | C11H14N2O3
